US09120822B2
Triethylamine (110 μL, 0.77 mmol, 2.0 eq) is added at 0° C. to a stirred solution of 6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid (100 mg, 0.39 mmol, 1.0 eq) in tetrahydrofuran (10 mL), followed by ethyl chloroformate (73 μL, 0.77 mmol, 2.0 eq). After 1 hour stirring at 0° C., a solution of diazomethane in diethyl ether (20 mL, freshly prepared) is added at 0° C. to the reaction mixture. After 2 hours stirring at 0° C., a 33% hydrobromic acid solution in acetic acid (200 μL, 1.16 mmol, 3.0 eq) is added at 0° C. to the reaction mixture. After 1 hour stirring at 0° C., solvent is removed to give a crude product that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 3:1, v/v) to afford 2-bromo-1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-ethanone as a light yellow oil (33 mg, 25% yield)

reactant | Triethylamine | 0.77 mmol, 110 μL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | 6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthrene-3-carboxylic acid | 0.39 mmol, 100 mg, 1.0 eq | COC=1C=C2C=3CC(COC3C=NC2=CC1)C(=O)O | C14H13NO4
reactant | ethyl chloroformate | 0.77 mmol, 73 μL, 2.0 eq | ClC(=O)OCC | C3H5ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 1.16 mmol, 200 μL, 3.0 eq | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-1-(6-methoxy-3,4-dihydro-2H-1-oxa-9-aza-phenanthren-3-yl)-ethanone | 33 mg, 25% yield | BrCC(=O)C1COC=2C=NC3=CC=C(C=C3C2C1)OC | C15H14BrNO3
